US05852023
Preparation of the precursor 4-(cis-4-tert-butylcyclohexylamino)-6-iodopyrimidine
2.0 g (7.5 mmol) of 4-(cis-4-tert-butylcyclohexylamino)-6-chloropyrimidine were heated at reflux for 5 hours in 20 ml of aqueous hydroiodic acid (57% strength). After cooling the mixture was filtered with suction, the solid was suspended in water and the suspension was rendered basic using ammonia solution. It was extracted with dichloromethane and the organic phase was dried and concentrated, to leave 1.2 g (44.5% of theory) of colorless resin which gradually crystallized.

reactant | 4-(cis-4-tert-butylcyclohexylamino)-6-chloropyrimidine | 7.5 mmol, 2.0 g | C(C)(C)(C)[C@H]1CC[C@H](CC1)NC1=NC=NC(=C1)Cl | C14H22ClN3
reactant | hydroiodic acid | 20 ml | I | HI
product | 4-(cis-4-tert-butylcyclohexylamino)-6-iodopyrimidine | C(C)(C)(C)[C@H]1CC[C@H](CC1)NC1=NC=NC(=C1)I | C14H22IN3
